US08735414B2
Into a solution of 1-cyclopentyl-5-fluoro-6-methyl-1H-indole-3-carbonitrile (4.4 g, 18.2 mmol) and triisopropyl borate (7.6 mL, 33 mmol) in THF (75 mL) at −78° C. was added LDA (1.5 M in cyclohexane, 15.8 mL, 23.7 mmol). The mixture was stirred at −78° C. for 30 min, quenched with ice water (200 mL) and stirred for 15 min without cooling. The mixture was extracted with ethyl acetate 1:1 in hexane (20 mL). The aqueous layer was acidified with aq. 2 N HCl to pH 5 and then extracted with CH2Cl2 (100 mL). The organic layer was dried over Na2SO4 and concentrated to give 3-cyano-1-cyclobutyl-6-cyclopropyl-1H-indol-2-ylboronic acid as a solid (6.2 g, 90% pure by LCMS) which was used in the next step without further purification.

reactant | 1-cyclopentyl-5-fluoro-6-methyl-1H-indole-3-carbonitrile | 18.2 mmol, 4.4 g | C1(CCCC1)N1C=C(C2=CC(=C(C=C12)C)F)C#N | C15H15FN2
reactant | triisopropyl borate | 33 mmol, 7.6 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | LDA | 23.7 mmol, 1.5 M, 15.8 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 3-cyano-1-cyclobutyl-6-cyclopropyl-1H-indol-2-ylboronic acid | C(#N)C1=C(N(C2=CC(=CC=C12)C1CC1)C1CCC1)B(O)O | C16H17BN2O2
